US05539074
A solution of 5.2 g of 4-(E)-ethyloxycarbonyloxycinnamic acid in 20 ml of thionyl chloride and 0.05 ml of N,N-dimethylformamide was heated under reflux for 3 hours. Subsequently, excess thionyl chloride was distilled off. 3.3 g of 4-hydroxybutyl methacrylate were added dropwise to a solution of the resulting 4-(E)-ethyloxycarbonyloxycinnamoyl chloride in 15 ml of pyridine while stirring at 0° C. within 15 minutes. The reaction mixture was stirred at room temperature for a further 12 hours, then poured into water and extracted three times with 50 ml of ethyl acetate each time. The combined organic phases were dried over magnesium sulphate, filtered and subsequently concentrated. Chromatographic purification on silica gel with hexane/ethyl acetate (vol. 7:3) gave 3 g of 4-methacryloyloxybutyl (E)-3-(4-ethoxycarbonyloxyphenyl)acrylate, m.p. 54°-56° C.

reactant | 4-(E)-ethyloxycarbonyloxycinnamic acid | 5.2 g | C(C)OC(=O)OC1=CC=C(/C=C/C(=O)O)C=C1 | C12H12O5
reactant | N,N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-methacryloyloxybutyl (E)-3-(4-ethoxycarbonyloxyphenyl)acrylate | 3 g | C(C)OC(=O)OC1=CC=C(C=C1)/C=C/C(=O)OCCCCOC(C(=C)C)=O | C20H24O7
